US05571813
Preparation of Methyl (S)-2-(4-Nitrobenzamido)-3-phenylpropanoate
2.0 g (9.3 mmol) L-phenylalanine methylester hydrochloride and 1.73 g (9.3 mmol) 4-nitrobenzoyl chloride were dissolved in a mixture of 10 ml dichloromethane and 5 ml pyridine and stirred over night at room temperature. The mixture was evaporated in vacuo, while a colorless solid precipitated, which was filtered by suction, recrystallized from ethanol, washed with diisopropylether, and dried in vacuo to give the title compound in colorless needles, m.p. 115°-116° C.

reactant | L-phenylalanine methylester hydrochloride | 9.3 mmol, 2.0 g | Cl.COC([C@@H](N)CC1=CC=CC=C1)=O
reactant | 4-nitrobenzoyl chloride | 9.3 mmol, 1.73 g | [N+](=O)([O-])C1=CC=C(C(=O)Cl)C=C1 | C7H4ClNO3
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
product | Methyl (S)-2-(4-Nitrobenzamido)-3-phenylpropanoate | [N+](=O)([O-])C1=CC=C(C(=O)N[C@H](C(=O)OC)CC2=CC=CC=C2)C=C1 | C17H16N2O5
